US04602115
51 ml (1 mol) of bromine were added dropwise to 136 g (1 mol) of 3,3-bisfluoromethylbutan-2-one in 700 ml of methylene chloride such that decoloration was continuous. The solvent was then distilled off under a water pump vacuum. An almost quantitative yield of crude 3,3-bisfluoromethyl-1-bromo-butan-2-one was obtained as an oil, which could be further reacted directly.

reactant | bromine | 1 mol, 51 ml | BrBr | Br2
reactant | 3,3-bisfluoromethylbutan-2-one | 1 mol, 136 g | FCC(C(C)=O)(C)CF | C6H10F2O
solvent | methylene chloride | 700 ml | C(Cl)Cl | CH2Cl2
product | 3,3-bisfluoromethyl-1-bromo-butan-2-one | quantitative yield | FCC(C(CBr)=O)(C)CF | C6H9BrF2O
